reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[C:3]([O:4][H:12])([H:9])([H:10])[H:11].[N:1]([C+:2]=[C:5]=[N-:6])([H:7])[H:8],71.3940417171103
[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[O:1]=[C:2]([C:4]1([H:9])[C:3]([H:8])([H:10])[O:6][C:5]1([H:11])[H:12])[H:7],92.96461257863108
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]=[C:5]=[C:6]=[O:7])([H:8])([H:9])[H:10].[H:11][H:15]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10],37.2190998742401
[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([O:7]/[C:6](=[N:5]/[H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],74.90855786877202
[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:11].[C:2](=[O:3])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15],90.20061698551599
[C-:5]#[O+:6].[C:1]([C:2]1([H:10])[C:3]([H:12])=[C:4]1[H:13])([H:7])([H:8])[H:9].[H:11][H:14]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9],35.235756209836715
[N+:1](=[C-:2][O:3][C:4](=[O:5])[N:6]([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:9])[H:10])([H:7])[H:8],25.4717500186917
[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7]>>[C:3](=[O:4])([C:5]([O:6][H:14])([H:12])[H:13])[H:10].[H:7][H:11].[O:1]=[C:2]([H:8])[H:9],93.3619772229387
[C:1](/[C:2](=[C:3](\[C+:4]=[C:5]=[N-:6])[H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],26.152990732633697
[C:1](/[C:2](=[C:3](\[C:4]#[N:5])[H:8])[H:7])[H:6]>>[C:1](#[C:2][C:3]([C:4]#[N:5])([H:7])[H:8])[H:6],17.2755447207472
[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:2]1([H:11])[C@@:3]([C:5]#[N:6])([H:12])[N+:4]1([H:13])[H:14].[C:1]([H:7])([H:8])([H:9])[H:10],99.9221930027287
[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[N:1]1([H:8])[C:2](=[O:3])[C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15].[O:7]([H:9])[H:16],80.44505831258091
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:10])[H:15])([H:7])([H:8])[H:9].[C:4](=[C:5]=[O:6])([H:14])[H:16]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],70.9830234248625
[C:1]([N:6]=[C:5]1[C:2]([H:10])([H:11])[N:3]([H:12])[C:4]1([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],87.1230797477961
[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N+:2]([C:3]1=[C:7]=[C:6]([H:13])[N:5]([H:12])[N-:4]1)([H:11])[H:14])([H:8])([H:9])[H:10],80.4115466810823
[C:1]([N+:2]([C-:3]([C:4]([H:12])([H:13])[H:14])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]#[N:6])[H:11])[H:10])([H:7])([H:8])[H:9],22.493013712091503
[O:1]([C@@:2]1([H:8])[C:3]([H:9])=[C:5]1[C:6](=[O:4])[H:10])[H:7]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[C:6][H:10])[H:8])[H:7],68.9598146696694
[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:1]([O+:2]=[C:3]([H:11])[H:12])([H:8])[H:9].[C:4](=[N:5]/[O:6][H:13])(\[C:7]([H:14])([H:15])[H:16])[H:10],82.7106921465068
[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([N+:6]#[C-:5])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],48.4197304456355
[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([N+:6]#[C-:5])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],31.9012006689472
[C:6](=[O:7])([H:13])[H:14].[N:1]([C@:2]([O:3][H:15])([N:4]=[C:5]([H:11])[H:12])[H:10])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9],64.29017105430701
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N+:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([O-:6])[H:15])[H:13])[H:14])([H:7])([H:8])[H:9],63.6232967746117
[C:1]([O+:3]=[C-:2][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10],45.39012408864559
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:2]1[C:3]([H:10])([H:12])[C:5]([O:6][H:11])([H:15])[C:4]1([H:13])[H:14])([H:7])([H:8])[H:9],87.1731377991713
